US06107307
3-(6-fluoroindol-3-yl)-8-methyl-8-azabicyclo[3.2.1]oct-2-ene
A solution of 2.0 gm (14.8 mMol) 6-fluoroindole in 50 mL acetic acid was heated to 55° C. and vigorously deoxygen-ated with nitrogen. To this reaction mixture were then added 4.12 gm (29.6 mMol) tropinone and 12.3 mL 2N phosphor-ic acid. The resulting mixture was heated at 60-65° C. for 24 hours. The reaction mixture was cooled to room temperature and then poured into ice containing about 300 mL acetic acid. The pH of this mixture was then adjusted to about 8 by the addition of 50% aqueous NaOH. The resulting mixture was extracted well with dichloromethane. The combined organic extracts were washed with saturated aqueous sodium chloride, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with a gradient of dichlorometh-ane containing 30% dichloromethane saturated with ammonia and from 1-15% methanol. Fractions containing product were combined and concentrated under reduced pressure. The solid residue was crystallized from ethanol to provide 0.358 gm (9.44%) of the title compound as colorless crystals.

reactant | 6-fluoroindole | 14.8 mMol, 2.0 gm | FC1=CC=C2C=CNC2=C1 | C8H6FN
reactant | tropinone | 29.6 mMol, 4.12 gm | CN1C2CCC1CC(=O)C2 | C8H13NO
reactant | phosphor-ic acid | 2N, 12.3 mL | P(O)(O)(O)=O | H3O4P
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 3-(6-fluoroindol-3-yl)-8-methyl-8-azabicyclo[3.2.1]oct-2-ene | 0.358 gm, 9.44% | FC1=CC=C2C(=CNC2=C1)C1=CC2CCC(C1)N2C | C16H17FN2
